US08071778B2
2-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-6-methyl-4-(trifluoromethyl)pyridine.
2-chloro-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine (80 mg, 0.192 mmol), tetrakis(triphenylphsophine)palladium(O) (22.18 mg, 0.019 mmol), and 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (72.3 mg, 0.576 mmol) were combined in tetrahydrofuran (1.5 mL). The reaction was then treated with potassium hydroxide (0.392 ml, 0.392 mmol) and heated to 100° C. for 2 hours. After cooling, the solution was diluted with ethyl acetate (25 mL), washed with water (10 mL) and brine (10 mL). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting oil was purified via preparatory HPLC to yield the desired product (30.23 mg, 0.076 mmol, 39.7%) as the TFA salt. 1H-NMR (CDCl3, 400 MHz) δ 10.02 (s, 1H), 8.09 (s, 1H), 7.93 (s, 1H). LC: Tr=1.920 min, HPLC Method 1. Mass spec.: 397.03 (MH)+.

reactant | 2-chloro-6-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-4-(trifluoromethyl)pyridine | 0.192 mmol, 80 mg | ClC1=NC(=CC(=C1)C(F)(F)F)COCC1(CCN(CC1)C)C1=CC=C(C=C1)F | C20H21ClF4N2O
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 0.576 mmol, 72.3 mg | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | potassium hydroxide | 0.392 mmol, 0.392 ml | [OH-].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-(((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)methyl)-6-methyl-4-(trifluoromethyl)pyridine | 0.076 mmol, 30.23 mg, 39.7% | FC1=CC=C(C=C1)C1(CCN(CC1)C)COCC1=NC(=CC(=C1)C(F)(F)F)C | C21H24F4N2O
